US04179569
100 parts of sodium 4-(phenylamino)-1-(phenylmethyl)-4-piperidinecarboxylate are dissolved in 565 parts of anhydrous hexamethylphosphoric triamide at 70°-80° C. The solution is cooled to 10° C. and 40.6 parts of 1-bromopropane are added dropwise. Upon completion, stirring is continued for 25 hours at room temperature. Then there are added methylbenzene and water. The organic phase is separated, washed successively with water, 10% of sodium hydroxide solution and again with water, dried, filtered and evaporated. The residue is dissolved in hexane and the solution is allowed to stand overnight at room temperature. It is filtered and the filtrate is evaporated. The residue is converted into the ethanedioate salt in 2-propanone. The salt is filtered off and dried, yielding propyl 4-(phenylamino)-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate; mp. 192.2° C.

reactant | sodium 4-(phenylamino)-1-(phenylmethyl)-4-piperidinecarboxylate | C1(=CC=CC=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)[O-].[Na+]
reactant | 1-bromopropane | BrCCC | C3H7Br
reactant | methylbenzene | CC1=CC=CC=C1 | C7H8
reactant | water | O | H2O
reactant | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | propyl 4-(phenylamino)-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.C1(=CC=CC=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCCC | InChI=1S/C22H28N2O2.C2H2O4/c1-2-17-26-21(25)22(23-20-11-7-4-8-12-20)13-15-24(16-14-22)18-19-9-5-3-6-10-19;3-1(4)2(5)6/h3-12,23H,2,13-18H2,1H3;(H,3,4)(H,5,6)
